US06465467B1
Step 1: 2-Chloro-3-(2-phenoxyethoxy)pyridine.
A mixture of 2-chloro-3-hydroxypyridine (3.0 g, 23.1 mmol), β-bromophenetole (4.66 g, 23.2 mmol), and K2CO3 (8.0 g, 57.9 mmol) in DMF (50 niL) was heated at 100° C. for 1.5 h. The solvent was removed under reduced pressure and the residue was partitioned between EtOAc and H2O. The organic phase was dried (MgSO4), filtered, and the solvent evaporated. The solid residue was triturated with a small amount of ether and dried (65° C., 1 mmHg) to afford 4.23 g (74%) of the title product as white crystals: mp 77-78° C. Anal. (C13H12ClNO2) C, H, N.

reactant | 2-chloro-3-hydroxypyridine | 23.1 mmol, 3.0 g | ClC1=NC=CC=C1O | C5H4ClNO
reactant | β-bromophenetole | 23.2 mmol, 4.66 g | BrCCOC1=CC=CC=C1 | C8H9BrO
reactant | K2CO3 | 57.9 mmol, 8.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Chloro-3-(2-phenoxyethoxy)pyridine | 4.23 g, 74% | ClC1=NC=CC=C1OCCOC1=CC=CC=C1 | C13H12ClNO2
